US07105517B2
A suspension of N-[4-(2-amino-4-phenyl-thiazol-5-yl)-pyrimidin-2-yl]-N-phenyl-amine (0.25 g, 0.7 mmol), acetic acid anhydride (0.11 mg, 1.1 mmol), triethylamine (0.11 mg, 1.1 mmol) and a catalytic amount of N,N-dimethylaminopyridine is heated at reflux for 18 hours. The volatiles are evaporated under reduced pressure and the product is crystallized by the addition of diethyl ether. Filtering and drying gives the N-[4-(2-acetylamino-4-phenyl-thiazol-5-yl)-pyrimidin-2-yl]-N-phenyl-amine, m.p. >260° C.

reactant | N-[4-(2-amino-4-phenyl-thiazol-5-yl)-pyrimidin-2-yl]-N-phenyl-amine | 0.7 mmol, 0.25 g | NC=1SC(=C(N1)C1=CC=CC=C1)C1=NC(=NC=C1)NC1=CC=CC=C1 | C19H15N5S
reactant | acetic acid anhydride | 1.1 mmol, 0.11 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 1.1 mmol, 0.11 mg | C(C)N(CC)CC | C6H15N
product | N-[4-(2-acetylamino-4-phenyl-thiazol-5-yl)-pyrimidin-2-yl]-N-phenyl-amine | C(C)(=O)NC=1SC(=C(N1)C1=CC=CC=C1)C1=NC(=NC=C1)NC1=CC=CC=C1 | C21H17N5OS
